US07309703B2
D. (R)-1-(3-(4-Bromo-phenyl)-1-{3-[4-(5-chloro-2-methyl-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone
(S)-1-[3-(4-Bromo-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (37 mg, 0.98 mmol) and 4-(2-methyl-5-chlorophenyl)piperazine (36 mg, 0.17 mmol) were combined in EtOH (0.4 mL) and heated to 70° C. After 18 h the mixture was allowed to cool, diluted with CH2Cl2 and purified by preparative TLC (silica, 8% MeOH/CH2Cl2) to give 35 mg (61%) the title compound. HPLC (reverse phase conditions): tR=4.41 min. MS (electrospray): m/z calculated for C28H3435CI79BrN5O2 [M++H], 586.16, found 586.2. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 7.56 (d (partially obscured), J=8.5, Hz, 2H), 7.53 (s, 4H), 7.48 (d, J=8.5 Hz, 2H), 7.08 (br d, J=8.5 Hz, 1H), 6.95 (m, 2H), 4.85 and 4.73 (A and B of AB quartet, Jab=15.6 Hz, 1H), 4.62 (s,1H), 4.20 (m, 2H), 4.04 (m, 2H), 3.90-3.71 (m, 2H), 2.92-2.53 (m, 11H), 2.21 (s, 1.5H), 2.16 (s, 1.5H).

reactant | (S)-1-[3-(4-Bromo-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.98 mmol, 37 mg | BrC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)C[C@@H]2OC2 | C17H18BrN3O2
reactant | 4-(2-methyl-5-chlorophenyl)piperazine | 0.17 mmol, 36 mg | CC1=C(C=C(C=C1)Cl)N1CCNCC1 | C11H15ClN2
solvent | EtOH | 0.4 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-(4-Bromo-phenyl)-1-{3-[4-(5-chloro-2-methyl-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone | 35 mg, 61% | BrC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)C[C@@H](CN2CCN(CC2)C2=C(C=CC(=C2)Cl)C)O | C28H33BrClN5O2
